US04251655
4-Diphenylmethyl-1-iminomethylpiperidine hydrochloride hydrate
A suspension of 27.39 g (0.25 mole) of ethyl formimidate hydrochloride [prepared by the method of Ohme, et al., Angew. Chem. Intl. Ed., 6, 566(1967)] and 52.71 g (0.20 mole) of diphenyl-4-piperidylmethane in 80 ml of freshly-opened absolute ethanol was stirred magnetically under a calcium chloride tube overnight. The suspension was filtered and diethylether was added to the filtrate. The filtrate was stripped to dryness and the resulting oil was crystallized from isopropanol. The solid was then suspended in boiling ethyl acetate to obtain a higher melting form. Two recrystallizations from ethanol-ether yielded pure 4-diphenylmethyl-1-iminomethylpiperidine hydrochloride hydrate; m.p. 220°-221° C.

reactant | ethyl formimidate hydrochloride | 0.25 mole, 27.39 g | Cl.C(OCC)=N
reactant | diphenyl-4-piperidylmethane | 0.20 mole, 52.71 g | C1(=CC=CC=C1)C(C1CCNCC1)C1=CC=CC=C1 | C18H21N
solvent | ethanol | C(C)O | C2H6O
product | 4-Diphenylmethyl-1-iminomethylpiperidine hydrochloride hydrate | O.Cl.C1(=CC=CC=C1)C(C1CCN(CC1)C=N)C1=CC=CC=C1 | InChI=1S/C19H22N2.ClH.H2O/c20-15-21-13-11-18(12-14-21)19(16-7-3-1-4-8-16)17-9-5-2-6-10-17;;/h1-10,15,18-20H,11-14H2;1H;1H2
